US07226921B2
Morpholine-4-carboxylic acid {1-[1-(3-ethyl-[1,2,4]oxadiazole-5-carbonyl)-propylcarbamoyl-2-phenylmethanesulfonyl-ethyl}-amide
By proceeding in a similar manner to that described in Example 20 above but using N-hydroxy-propionamidine instead of N-hydroxy-benzamidine in step 1, there was prepared morpholine-4-carboxylic acid {1-[1-(3-ethyl-[1,2,4]oxadiazole-5-carbonyl)-propylcarbamoyl]-2-phenylmethanesulfonyl-ethyl}-amide. 1H NMR (DMSO): 8.73 (d, J=6.4 Hz, 1H), 7.40–7.33 (m, 5H), 7.01 (d, J=8 Hz, 1H), 4.88–4.82 (m, 1H), 4.71–4.65 (m, 1H), 4.47 (s, 2H), 3.57–3.24 (m, 10H), 2.81 (q, J=7.6 Hz, 2H), 1.99–1.88 (m, 1H), 1.75–1.64 (m, 1H), 1.26 (t, J=7.6 Hz, 3H), 0.92 (t, J=7.6 Hz, 3H). MS: (M++1) 522.

reactant | N-hydroxy-propionamidine | ONC(CC)=N | C3H8N2O
reactant | morpholine-4-carboxylic acid {1-[1-(3-ethyl-[1,2,4]oxadiazole-5-carbonyl)-propylcarbamoyl]-2-phenylmethanesulfonyl-ethyl}-amide | C(C)C1=NOC(=N1)C(=O)C(CC)NC(=O)C(CS(=O)(=O)CC1=CC=CC=C1)NC(=O)N1CCOCC1 | C23H31N5O7S
product | Morpholine-4-carboxylic acid | N1(CCOCC1)C(=O)O | C5H9NO3
